US04239695
Into a reactor similar to the above were charged 174 g phosphorous acid and 92 g propionic acid. 41.5 g acetonitrile was introduced slowly for 72 minutes at 135°-140° C. into the agitated mixture which was maintained for an additional 10 hours at that temperature. The 1-aminoethane-1, 1-diphosphonic acid produced was isolated from the reaction mixture in the same manner as described in Example 1. The yield was 85% of the theory calculated on the acetonitrile employed.

reactant | phosphorous acid | 174 g | P(O)(O)O | H3O3P
reactant | propionic acid | 92 g | C(CC)(=O)O | C3H6O2
reactant | acetonitrile | 41.5 g | C(C)#N | C2H3N
product | 1-aminoethane-1, 1-diphosphonic acid | yield was 85% | NC(C)(P(O)(=O)O)P(O)(=O)O | C2H9NO6P2
